US09388189B2
(S)-4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.33 mmol), 4-amino-6-chloro-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide (123 mg, 0.36 mmol), DIEA (344 μl, 1.97 mmol) and cesium fluoride (150 mg, 0.99 mmol) were suspended in tert-butanol (10 ml) and the mixture was heated at 80° C. in a sealed tube for 24 h. The solvent was evaporated under reduced pressure and the reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by reverse phase chromatography using SP1® Purification System to give 47 mg (23% yield) as a solid. Purity 94%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.33 mmol, 100 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-chloro-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide | 0.36 mmol, 123 mg | NC1=NC=NC(=C1C(=O)NC1=CC=C(C=C1)S(NC)(=O)=O)Cl | C12H12ClN5O3S
reactant | DIEA | 1.97 mmol, 344 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 0.99 mmol, 150 mg | [F-].[Cs+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-N-(4-(N-methylsulfamoyl)phenyl)pyrimidine-5-carboxamide | 23% yield | NC1=NC=NC(=C1C(=O)NC1=CC=C(C=C1)S(NC)(=O)=O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H27N9O4S
